US06441237B1
Hydroxymethylene-2,6-dimethylphenylacetonitrile (3)
126 g (0.87 mol) of 2,6-dimethylphenylacetonitrile are dissolved in 450 ml toluene and combined with 450 ml of ethyl formate. The mixture is cooled to a temperature of −10° C. and 144 g (1.29 mol) of potassium-tert.-butoxide are added in batches, so that the temperature does not exceed −5° C. It is left to react for a period of 30 minutes (min) at −5° C. and then for 2 hours (h) at ambient temperature. It is then extracted twice with 500 ml of water, the aqueous phase is made acidic with 100 ml of concentrated hydrochloric acid and extracted twice more with 500 ml of methylene chloride (dichloromethane). The organic phase is dried and concentrated by evaporation in vacuo. The residue is recrystallised from petroleum ether. Yield: 139 g (92% of theory).

reactant | 2,6-dimethylphenylacetonitrile | 0.87 mol, 126 g | CC1=C(C(=CC=C1)C)CC#N | C10H11N
reactant | ethyl formate | 450 ml | C(=O)OCC | C3H6O2
reactant | potassium tert.-butoxide | 1.29 mol, 144 g | [K].CC(C)([O-])C
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | Hydroxymethylene-2,6-dimethylphenylacetonitrile | OC=C(C#N)C1=C(C=CC=C1C)C | C11H11NO
